US07317125B2
Preparation of cyclohexanecarboxylic acid N′-[2-(2-bromo-4-fluoro-phenoxy)-acetyl]-N′-isopropyl-hydrazide
A solution of (2-bromo-4-fluoro-phenoxy)-acetic acid (249 mg, 1.0 mmol) and cyclohexane carboxylic acid N′-isopropyl-hydrazide (221 mg, 1.2 mmol) in DMF (10 ml) was treated with diisopropylethyl amine (0.44 mL, 2.5 mmol) and bromotripyrrolidinophosphonium hexafluorophosphate (PyBroP, 700 mg, 1.5 mmol) at room temperature overnight. The reaction mixture was partitioned between 1N HCl and ethyl acetate. The organic layer was successively washed with saturated 1N NaOH and brine, then dried over sodium sulfate, filtered and concentrated. The crude was absorbed on silica and purified on a silica gel column with a 30-50% ethyl acetate/hexanes gradient to afford the product as a white solid (310 mg, 75%).

reactant | (2-bromo-4-fluoro-phenoxy)-acetic acid | 1.0 mmol, 249 mg | BrC1=C(OCC(=O)O)C=CC(=C1)F | C8H6BrFO3
reactant | cyclohexane carboxylic acid N′-isopropyl-hydrazide | 1.2 mmol, 221 mg | C(C)(C)NNC(=O)C1CCCCC1 | C10H20N2O
reactant | diisopropylethyl amine | 2.5 mmol, 0.44 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | bromotripyrrolidinophosphonium hexafluorophosphate | 1.5 mmol, 700 mg | F[P-](F)(F)(F)(F)F.Br[P+](N1CCCC1)(N1CCCC1)N1CCCC1
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | cyclohexanecarboxylic acid N′-[2-(2-bromo-4-fluoro-phenoxy)-acetyl]-N′-isopropyl-hydrazide | 310 mg, 75% | BrC1=C(OCC(=O)N(NC(=O)C2CCCCC2)C(C)C)C=CC(=C1)F | C18H24BrFN2O3
